US08357693B2
3-(4-Chloroquinazolin-2-yl)phenyl acetate (9.77 g, 29.97 mmole) was dissolved in isopropanol (290 mL) and tert-butyl 5-amino-1H-indazole-1-carboxylate (6.99 g, 29.97 mmole) was added. The solution was heated to 95° C. and stirred for 0.25 h. A gelatinous formation developed which was manually broken up and dissolution gradually occurred followed by formation of a yellow precipitate. The reaction was stirred for an additional 0.25 h, cooled to ambient temperature and filtered. The filtered solid was washed with ether and then dried under high vacuum overnight to give tert-butyl 5-(2-(3-acetoxyphenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate. (14.58 g, mmol, 98%)

reactant | 3-(4-Chloroquinazolin-2-yl)phenyl acetate | 29.97 mmole, 9.77 g | C(C)(=O)OC1=CC(=CC=C1)C1=NC2=CC=CC=C2C(=N1)Cl | C16H11ClN2O2
reactant | tert-butyl 5-amino-1H-indazole-1-carboxylate | 29.97 mmole, 6.99 g | NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C12H15N3O2
solvent | isopropanol | 290 mL | C(C)(C)O | C3H8O
product | tert-butyl 5-(2-(3-acetoxyphenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | C(C)(=O)OC=1C=C(C=CC1)C1=NC2=CC=CC=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C28H25N5O4
